US03937702
To a stirred solution of 2,3-dihydro-3,3-dimethyl-5-hydroxy-2-piperidino-benzofuran (640 parts) in dry pyridine (1000 parts) at 5°-10°C was added methanesulphonyl chloride (370 parts) over 1 hour. The mixture was stirred for a further 5 hours at about 10°C, then poured into water. The precipitated gum was washed with water (3 × 200 parts) by decantation, then triturated with ethanol (500 parts) when it set to a crystalline mass which was broken up, filtered, and the residue of crude ester was washed with aqueous ethanol (2:1) and sucked dry. Drying at 35°C in vacuo over phosphoric oxide gave 2,3-dihydro-3,3-dimethyl-2-piperidinobenzofuran-5-yl methanesulphonate (660 parts, 78%) m.p. 97-8°C.

reactant | 2,3-dihydro-3,3-dimethyl-5-hydroxy-2-piperidino-benzofuran | CC1(C(OC2=C1C=C(C=C2)O)N2CCCCC2)C | C15H21NO2
reactant | methanesulphonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
reactant | water | O | H2O
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 2,3-dihydro-3,3-dimethyl-2-piperidinobenzofuran-5-yl methanesulphonate | 78% | CS(=O)(=O)OC=1C=CC2=C(C(C(O2)N2CCCCC2)(C)C)C1 | C16H23NO4S
